Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],3.89507715847
[C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.41059132832
[O:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:10]([H:11])([H:12])[H:13],1.90738448167
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8],4.90111441189
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7],-1.68725385151
[O:1][C:2]#[C:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2],2.69273714761
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11].[O:12][H:13],3.21393563233
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],8.801797719169999
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-3.40561249558
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],1.97172058948
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12]>>[H:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12],2.84197486283
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],4.42407642838
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.81856542897
[H:1][C:2]([H:3])=[C:4][H:5].[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.45197711647
[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4][C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],5.1963622247500005
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.62174056234
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:5],2.42696257307
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.77424281165
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],4.00349898362
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.20072586934
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.12627742637
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],4.26726320281
[C:1]#[C:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])[H:10].[H:6],2.40082249938
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[O:7][O:8][H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],-0.639202262419
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:11][H:12],4.588377176180001
[C:3](=[C:7][O:10][H:11])([H:8])[H:9].[H:1][O:2][C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.27739417488
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.20736668106
